US05082947
3-Trifluoromethyl-5-hydroxyisoxazole
A solution of 36% HCl (9.12 g, 15 eq.) and n-propanol (9.0 ml) was added to 5-amino-3-trifluoromethylisoxazole (0.91 g, 6.0 mmole) from Preparation 1 and heated at reflux for 23 hours. The reaction mixture was cooled, extracted with methylene chloride and distilled under reduced pressure to give 0.006 g (0.7%) of the titled compound as a colorless liquid, b.p. 35°-37° C./1.4 mmHg. This product was thought to be the keto form or a mixture of the keto and enol form by NMR and IR.

reactant | HCl | 9.12 g, 15 eq. | Cl | ClH
reactant | 5-amino-3-trifluoromethylisoxazole | 6.0 mmole, 0.91 g | NC1=CC(=NO1)C(F)(F)F | C4H3F3N2O
reactant | n-propanol | 9.0 ml | C(CC)O | C3H8O
product | 3-Trifluoromethyl-5-hydroxyisoxazole | 0.006 g, 0.7% | FC(C1=NOC(=C1)O)(F)F | C4H2F3NO2
